US08211927B2
B: 4-Bromo-5-(4-chlorophenyl)-N-cyclopentylisoxazole-3-carboxamide
A mixture of ethyl 4-bromo-5-(4-chlorophenyl)isoxazole-3-carboxylate (213 mg, 0.70 mmol) and cyclopentylamine (0.70 mL, 7.0 mmol) in absolute ethanol (8 mL) was heated to reflux overnight. The volatiles were removed in vacuo and the compound was purified by silica gel chromatography eluting with 2% methanol with dichloromethane to afford the title compound: (0.21 g, 0.57 mmol). MS (ESI) m/z (M+H+): 370.9/368.8.

reactant | ethyl 4-bromo-5-(4-chlorophenyl)isoxazole-3-carboxylate | 0.70 mmol, 213 mg | BrC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)OCC | C12H9BrClNO3
reactant | cyclopentylamine | 7.0 mmol, 0.70 mL | C1(CCCC1)N | C5H11N
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4-Bromo-5-(4-chlorophenyl)-N-cyclopentylisoxazole-3-carboxamide | BrC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)NC1CCCC1 | C15H14BrClN2O2
